US07906654B2
4-(4-Cyano-3-methylphenyl)tetrahydro-2H-thiopyran-4-carbonitrile
A solution of tetrahydro-2H-thiopyran-4-carbonitrile (197 mg, 1.55 mmol) and THF (2.0 mL) is slowly added via syringe to a mixture of KHMDS (324 mg, 1.63 mmol) in THF (3.0 mL), stirring at −78° C. under nitrogen. The temperature is maintained at −78° C. for 30 min. before a mixture of 4-fluoro-2-methylbenzonitrile (222 mg, 1.64 mmol) in THF (1.0 mL) is slowly added to the vessel. The mixture is allowed to warm to room temperature and is stirred for 3 hours before being quenched with saturated aqueous NH4Cl. The solvent is removed by rotary evaporator and EtOAc (10.0 mL) and water (10.0 mL) are added. The phases are partitioned and the organic is washed with brine, dried with Na2SO4 and concentrated to yield the product (252 mg, 1.04 mmol, 67%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.84-1.95 (m, 2H), 2.03-2.14 (m, 2H), 2.51 (s, 3H), 2.57-2.72 (m, 4H), 7.23-7.31 (m, 1H), 7.41 (dd, J=9.96, 1.76 Hz, 1H), 7.89 (dd, J=8.59, 5.86 Hz, 1H).

reactant | tetrahydro-2H-thiopyran-4-carbonitrile | 1.55 mmol, 197 mg | S1CCC(CC1)C#N | C6H9NS
reactant | KHMDS | 1.63 mmol, 324 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-fluoro-2-methylbenzonitrile | 1.64 mmol, 222 mg | FC1=CC(=C(C#N)C=C1)C | C8H6FN
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 4-(4-Cyano-3-methylphenyl)tetrahydro-2H-thiopyran-4-carbonitrile | 1.04 mmol, 252 mg, 67% | C(#N)C1=C(C=C(C=C1)C1(CCSCC1)C#N)C | C14H14N2S
